US05296484
8-Fluoro-4-[2-(3-thienyl)ethyl]quinoline
A mixture of 1.85 g of 5-[2-(3-thienyl)ethyl]-barbituric acid and 1.5 g of 4-chloro-8-fluoroquinoline was heated to 150° C. for 11/4hours, then cooled. To the cooled mixture were added 2 g of NaOH and 35 ml of water, and the mixture was heated to reflux overnight. The mixture was cooled, then acidified to pH 1.5 with concentrated HCl, and heated gently for about 11/4 hours. After cooling the mixture, the product was extracted into CH2Cl2. The CH2Cl2 solution was filtered through phase separating paper, then evaporated in vacuo, giving about 2 g of oil residue. The residue was absorbed onto silica gel and chromatographed, eluting with CH2Cl2. Fractions containing product were combined, and the title product was crystallized. Recrystallization from petroleum ether/ CH2Cl2 gave 0.68 g of the title product. M.P. 96°-97° C.

reactant | 5-[2-(3-thienyl)ethyl]-barbituric acid | 1.85 g | S1C=C(C=C1)CCC1C(NC(NC1=O)=O)=O | C10H10N2O3S
reactant | 4-chloro-8-fluoroquinoline | 1.5 g | ClC1=CC=NC2=C(C=CC=C12)F | C9H5ClFN
reactant | NaOH | 2 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 35 ml | O | H2O
product | 8-Fluoro-4-[2-(3-thienyl)ethyl]quinoline | about 2 g | FC=1C=CC=C2C(=CC=NC12)CCC1=CSC=C1 | C15H12FNS
